US08258119B2
3-Amino-5-phenylthiophene-2-carboxamide:
To a suspension of 3-amino-5-phenylthiophene-2-carbonitrile (150 mg) in aqueous sodium hydroxide solution (20 mL, 10%) was added ethanol (10 mL) and the mixture was refluxed for 1 h. The reaction mixture was allowed to attain rt and the crystals separated were filtered off, washed with cold water and dried to give the product as a golden yellow color solid (70 mg, 45%), mp 180-182° C.

reactant | 3-amino-5-phenylthiophene-2-carbonitrile | 150 mg | NC1=C(SC(=C1)C1=CC=CC=C1)C#N | C11H8N2S
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 20 mL | [OH-].[Na+]
product | 3-Amino-5-phenylthiophene-2-carboxamide | 70 mg, 45% | NC1=C(SC(=C1)C1=CC=CC=C1)C(=O)N | C11H10N2OS
